US04071519
13.0g (0.1 mole) of 5-fluorouracil was dissolved in 100ml of dimethyl sulfoxide, then 9.4g (0.11mole) of isopropyl isocyanate was added thereto at room temperature and stirred at the same temperature for 15 hours. The reaction mixture was poured into 800ml of water. The resultant precipitate was filtered off, washed with water and dried to give 14.7g (68.5% yield) of 5-fluoro-1-(iso-propylcarbamoyl)-uracil melting at 275°-285° C (decomposition).

reactant | 5-fluorouracil | 0.1 mole, 13.0g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | isopropyl isocyanate | 0.11mole, 9.4g | C(C)(C)N=C=O | C4H7NO
reactant | water | 800ml | O | H2O
solvent | dimethyl sulfoxide | 100ml | CS(=O)C | C2H6OS
product | 5-fluoro-1-(iso-propylcarbamoyl)-uracil | 14.7g, 68.5% yield | FC=1C(NC(N(C1)C(NC(C)C)=O)=O)=O | C8H10FN3O3
